US06150377
9A. 4-Bromomethyl-1-fluoro-2-iodo-benzene
4-Fluoro-3-iodotoluene (50 g, 210 mMol), N-bromosuccinimide (37.7 g, 212 mMol) and 2,2'-azobis-(2-methylpropionitrile) (348 mg, 2.12 mMol) were dissolved in carbon tetrachloride (300 mL) under an atmosphere of dry N2. The mixture was heated to reflux for 4 hours and then cooled to ambient temperature. The mixture was concentrated under vacuum and triturated with Et2O. The filtrate was successively washed with water, aqueous saturated NaHCO3 and brine. The ether layer was dried over MgSO4, filtered and concentrated under vacuum to give a red oil. The oil was chromatographed on flash silica gel eluting with hexanes to give 33.8 g of the titled compound as a white solid.

reactant | 4-Fluoro-3-iodotoluene | 210 mMol, 50 g | FC1=C(C=C(C=C1)C)I | C7H6FI
reactant | N-bromosuccinimide | 212 mMol, 37.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2'-azobis-(2-methylpropionitrile) | 2.12 mMol, 348 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 4-Bromomethyl-1-fluoro-2-iodo-benzene | 33.8 g | BrCC1=CC(=C(C=C1)F)I | C7H5BrFI
